US04113715
D-Cysteinyl-L-proline acetate
To a solution of N-tert-butyloxycarbonyl-S-p-methoxybenzyl-D-cysteinyl-L-proline tert-butyl ester (1.8 g) and anisole (4.4 ml) in dichloromethane (8 ml) chilled in an ice bath, trifluoromethane sulfonic acid (6.0 g) is added. The ice bath is removed and the mixture is stirred at room temperature for thirty minutes. The dichloromethane is removed in vacuo and the residue is triturated with hexane (2 × 200 ml). The residue is dissolved in water and extracted twice with ether. The aqueous phase is applied to a column of 200 ml of cation exchange resin [Doxex 50] in the hydrogen cycle. The column is washed with water until no more acidic material is eluted. The D-cysteinyl-L-proline acetate is eluted with a pyridine-acetic acid buffer pH 6.5, yield 0.66 g. Rf =0.38 (silica gel, chloroform:methanol:acetic acid:water).

reactant | N-tert-butyloxycarbonyl-S-p-methoxybenzyl-D-cysteinyl-L-proline tert-butyl ester | 1.8 g | C(C)(C)(C)OC([C@H]1N(CCC1)C([C@H](NC(=O)OC(C)(C)C)CSCC1=CC=C(C=C1)OC)=O)=O | C25H38N2O6S
reactant | anisole | 4.4 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoromethane sulfonic acid | 6.0 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | D-Cysteinyl-L-proline acetate | C(C)(=O)O.N[C@H](CS)C(=O)N1[C@H](C(=O)O)CCC1 | InChI=1S/C8H14N2O3S.C2H4O2/c9-5(4-14)7(11)10-3-1-2-6(10)8(12)13;1-2(3)4/h5-6,14H,1-4,9H2,(H,12,13);1H3,(H,3,4)/t5-,6+;/m1./s1
